US06107307
A solution of 5.0 gm (24.1 mMol) 2-bromonaphthalene in 80 mL tetrahydrofuran was cooled to -78° C. To this solution was then added 15.8 mL (25.3 mMol) n-butyllithium (1.6M in tetrahydrofuran) followed by a solution of 4.03 gm (29 mMol) 3-tropinone in 35 mL tetrahydrofuran. The reaction mixture was stirred at -78° C. for 2 hours and was then allowed to warm gradually to room temperature. The reaction mixture quenched by the addition of saturated aqueous ammonium chloride. The resulting mixture was extracted well with ethyl acetate. The organic phases were combined, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with dichloromethane containing from 2-10% methanol and 30% dichloromethane saturated with ammonia. Fractions containing product were combined and concentrated under reduced pressure to provide 3.2 gm (50%) of 3-hydroxy-3-(naphth-2-yl)-8-methyl-8-azabicyclo[3.2.1]octane.

reactant | 2-bromonaphthalene | 24.1 mMol, 5.0 gm | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
reactant | n-butyllithium | 25.3 mMol, 1.6M, 15.8 mL | C(CCC)[Li]
reactant | 3-tropinone | 29 mMol, 4.03 gm | CN1C2CCC1CC(=O)C2 | C8H13NO
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
product | 3-hydroxy-3-(naphth-2-yl)-8-methyl-8-azabicyclo[3.2.1]octane | 3.2 gm, 50% | OC1(CC2CCC(C1)N2C)C2=CC1=CC=CC=C1C=C2 | C18H21NO
